US07411072B2
5-(3-Chloro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1,3-dihydro-benzoimidazol-2-one
Following procedures essentially as described in Example 219, mix 11-bromomethylene-3-chloro-6,11-dihydro-dibenzo[b,e]oxepine (E-isomer, 40 mg, 0.124 mmol) (prepared essentially as described in Preparation 55), 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-benzoimidazol-2-one (31 mg, 0.118 mmol), Na2CO3 (2M in water, 148 □L, 0.295 mmol), dioxane (1 mL), and Pd(PPh3)4 (7 mg, 0.006 mmol). Purify the crude product on silica gel (12 g) eluting with 2% to 5% (2M NH3/MeOH)/CH2Cl2 to afford 31 mg (69%) of the title compound as a white solid. HPLC (ISO80-10) t=2.85min, 99%; MS [ES] 373 (M−H); 1H-NMR (DMSO-d6) 10.57 (s, 1H), 10.47 (s, 1H), 7.56 (dd, 2H, J=7.8, 6.1 Hz), 7.35 (t, 1H, J=7.5 Hz), 7.24 (t, 1H, J=7.7 Hz), 6.98 (m, 3H), 6.82 (d, 1H, J=4.4 Hz), 6.69 (m, 2H), 6.57 (s, 1H), 5.89-4.79 (br d, 2H).

reactant | 11-bromomethylene-3-chloro-6,11-dihydro-dibenzo[b,e]oxepine | 0.124 mmol, 40 mg | BrC=C1C2=C(OCC3=C1C=CC=C3)C=C(C=C2)Cl | C15H10BrClO
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-benzoimidazol-2-one | 0.118 mmol, 31 mg | CC1(OB(OC1(C)C)C1=CC2=C(NC(N2)=O)C=C1)C | C13H17BN2O3
reactant | Na2CO3 | 0.295 mmol, 2M | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.006 mmol, 7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 5-(3-Chloro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1,3-dihydro-benzoimidazol-2-one | 31 mg, 69% | ClC=1C=CC2=C(OCC3=C(C2=CC2=CC4=C(NC(N4)=O)C=C2)C=CC=C3)C1 | C22H15ClN2O2
